US07687522B2
Step 2. 3-benzyl-5-(3-fluoro-4-methoxyphenyl)-2-(methylthio)pyrimidin-4(3H)-one
In a separate flask, 3-benzyl-5-bromo-2-(methylthio)pyrimidin-4(3H)-one (580.5 mg, 1.87 mmol), tris(dibenzylideneacetone)dipalladium (0) (65.0 mg, 0.0710 mmol), 3-fluoro-4-methoxyphenylboronic acid (492.3 mg, 2.90 mmol), S-Phos (97.7 mg, 0.238 mmol), and potassium phosphate (1.250 g, 5.89 mmol) were suspended in toluene (15 ml) and nitrogen was bubbled through for about 30 seconds. The flask was fitted with a reflux condenser and placed in a preheated oil bath (100 C) and stirred under nitrogen for 105 minutes. The reaction was then cooled to room temperature and allowed to stand overnight.

reactant | 3-benzyl-5-bromo-2-(methylthio)pyrimidin-4(3H)-one | 1.87 mmol, 580.5 mg | C(C1=CC=CC=C1)N1C(=NC=C(C1=O)Br)SC | C12H11BrN2OS
reactant | 3-fluoro-4-methoxyphenylboronic acid | 2.90 mmol, 492.3 mg | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | S-Phos | 0.238 mmol, 97.7 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 5.89 mmol, 1.250 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0710 mmol, 65.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-benzyl-5-(3-fluoro-4-methoxyphenyl)-2-(methylthio)pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1C(=NC=C(C1=O)C1=CC(=C(C=C1)OC)F)SC | C19H17FN2O2S
